US06765012B2
5-Fluoro-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-piperidin-1-yl-propoxy)-phenylamine (0.57 g, 1.3 equiv.) and 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (0.363 g, 2 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (379 mg, 47%).

reactant | 4-(3-piperidin-1-yl-propoxy)-phenylamine | 0.57 g, 1.3 equiv. | N1(CCCCC1)CCCOC1=CC=C(C=C1)N | C14H22N2O
reactant | 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2 mmol, 0.363 g, 1 equiv. | FC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6FNO2
product | 5-Fluoro-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 379 mg, 47% | FC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCCCN1CCCCC1 | C23H26FN3O2
